US08258130B2
A solution of (benzyloxycarbonyl-{2-[(E)-1,3-dioxo-1,3-dihydro-isoindol-2-ylimino]ethyl}-amino)-acetic acid ethyl ester (7.7 mmol) in CH3CN (65 mL) is treated with sodium cyanoborohydride (1.92 g, 30.5 mmol), and acetic acid (6.8 mL, 118.8 mmol) is added with stirring under N2. After 5.5 h, the reaction solution is diluted with EtOAc (150 mL) and washed with saturated aqueous KHCO3 (3×50 mL) and saturated aqueous NaCl (50 mL). The organic phase is dried (MgSO4), filtered, and concentrated in vacuo. The residue is purified by silica gel chromatography (75:25 to 50:50 heptane:ethyl acetate gradient elution) to afford {benzyloxycarbonyl-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylamino)-ethyl]-amino}-acetic acid ethyl ester as an oil (2.66 g, 81%). MS: 426 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.79-7.91 (m, 2H), 7.69-7.79 (m, 2H), 7.17-7.39 (m, 5H), 5.04-5.21 (m, 2H), 4.87-5.04 (m, 1H), 4.04-4.23 (m, 4H), 3.48-3.59 (m, 2H), 3.18-3.38 (m, 2H), 1.10-1.30 (m, 3H).

reactant | (benzyloxycarbonyl-{2-[(E)-1,3-dioxo-1,3-dihydro-isoindol-2-ylimino]ethyl}-amino)-acetic acid ethyl ester | 7.7 mmol | C(C)OC(CN(C/C=N/N1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC1=CC=CC=C1)=O | C22H21N3O6
reactant | sodium cyanoborohydride | 30.5 mmol, 1.92 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 118.8 mmol, 6.8 mL | C(C)(=O)O | C2H4O2
solvent | CH3CN | 65 mL | CC#N | C2H3N
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | {benzyloxycarbonyl-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylamino)-ethyl]-amino}-acetic acid ethyl ester | 2.66 g, 81% | C(C)OC(CN(CCNN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC1=CC=CC=C1)=O | C22H23N3O6
